US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-2-methylfuran-3-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine and 2-methylfuran-3-carboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 77% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 2-methylfuran-3-carboxylic acid | CC=1OC=CC1C(=O)O | C6H6O3
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-2-methylfuran-3-carboxamide | 77% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)C1=C(OC=C1)C | C21H27N3O3
